US08685974B2
4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.60 mmol) and bis(tricyclohexylphosphine)palladium(II) chloride (0.05 mmol) were weighed into a microwave vial (reaction volume 2-5 mL). A solution of 1-ethyl-4-iodo-3-(2-thienyl)-1H-pyrazole (0.50 mmol) in 3.3 mL degassed dioxane and 1.1 mL of a degassed 2 M aqueous sodium carbonate solution were added. The reaction mixture was purged with argon, the microwave vial was capped with a septum and transferred to a laboratory microwave oven. The reaction mixture was irradiated to a reaction temperature of 120° C. for 15 min. After cooling to room temperature, the reaction mixture was diluted with water and extracted with dichloromethane. The combined organic phases were washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by chromatography on silica gel (cyclohexane:ethyl acetate 95:5 to 0:100) to afford 105 mg 4-[1-ethyl-3-(2-thienyl)-1H-pyrazol-4-yl]pyridine (82% yield).

reactant | 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.60 mmol | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | 1-ethyl-4-iodo-3-(2-thienyl)-1H-pyrazole | 0.50 mmol | C(C)N1N=C(C(=C1)I)C=1SC=CC1 | C9H9IN2S
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-[1-ethyl-3-(2-thienyl)-1H-pyrazol-4-yl]pyridine | 105 mg, 82% yield | C(C)N1N=C(C(=C1)C1=CC=NC=C1)C=1SC=CC1 | C14H13N3S
